US09023847B2
10. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-hydroxy-1-methyl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 1-amino-2-propanol instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 317 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, s) 10.29 (1H, s) 8.01 (1H, d, J=5.47 Hz) 7.78 (1H, d, J=5.27 Hz) 7.69 (1H, d, J=8.00 Hz) 7.46 (1H, d, J=5.27 Hz) 7.27-7.33 (1H, m) 6.79 (1H, d, J=5.47 Hz) 6.43 (1H, dd, J=3.51, 1.95 Hz) 4.71 (1H, t, J=5.76 Hz) 3.97-4.09 (1H, m) 3.27-3.48 (2H, m) 1.09 (3H, d, J=6.64 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 1-amino-2-propanol | NCC(C)O | C3H9NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-hydroxy-1-methyl-ethyl)-amide | OCC(C)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C15H16N4O2S
